US07902252B2
Reaction of trimethyl(3-(tetrahydro-2H-pyran-2-yloxy)prop-1-ynyl)silane (0.157 g, 0.74 mmol) and (Z)-1-bromobut-2-ene (0.12 g, 0.89 mmol) according to General Procedure 11.A provided (Z)-trimethyl(3-(tetrahydro-2H-pyran-2-yloxy)hept-5-en-1-ynyl)silane. The (Z)-1-bromobut-2-ene starting material was synthesized in two steps according to General Procedures 11.F and 11.G.

reactant | trimethyl(3-(tetrahydro-2H-pyran-2-yloxy)prop-1-ynyl)silane | 0.74 mmol, 0.157 g | C[Si](C#CCOC1OCCCC1)(C)C | C11H20O2Si
reactant | (Z)-1-bromobut-2-ene | 0.89 mmol, 0.12 g | BrC\C=C/C | C4H7Br
product | (Z)-trimethyl(3-(tetrahydro-2H-pyran-2-yloxy)hept-5-en-1-ynyl)silane | C[Si](C#CC(C\C=C/C)OC1OCCCC1)(C)C | C15H26O2Si
